US08304446B2
(3R)—N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(1-hydroxyethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]-3-morpholinecarboxamide formate salt
DIPEA (0.059 mL, 0.336 mmol) was added to a stirring solution of (3R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-morpholinecarboxylic acid (19.41 mg, 0.084 mmol) in DCM (1 mL). HATU (35.1 mg, 0.092 mmol) was then added followed by N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(1-hydroxyethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide (for a preparation see Intermediate 77) (44 mg, 0.084 mmol) and stirred for an hour at room temp. The mixture was treated with 4M hydrogen chloride in dioxane (0.5 mL, 2 mmol) and the reaction stirred at room temperature for 0.5 h. The reaction mixture was passed through an SCX-2 cartridge, washed with methanol and then eluted using 2M ammonia in methanol. The appropriate ammoniacal fractions were concentrated under reduced pressure and the residue was dissolved in DMSO-Methanol (1:1) (1 mL) and purified by MDAP (Method A) to give the title compound (31.2 mg, 58%). LCMS (System C) RT=2.04 min, ES+ve m/z 590/592 (M+H)+.

reactant | DIPEA | 0.336 mmol, 0.059 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (3R)-4-{[(1,1-dimethylethyl)oxy]carbonyl}-3-morpholinecarboxylic acid | 0.084 mmol, 19.41 mg | CC(C)(C)OC(=O)N1[C@H](COCC1)C(=O)O | C10H17NO5
reactant | HATU | 0.092 mmol, 35.1 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N-[1-{[3-(aminomethyl)phenyl]methyl}-4-(1-hydroxyethyl)-1H-indazol-3-yl]-5-chloro-2-thiophenesulfonamide | NCC=1C=C(C=CC1)CN1N=C(C2=C(C=CC=C12)C(C)O)NS(=O)(=O)C=1SC(=CC1)Cl | C21H21ClN4O3S2
reactant | hydrogen chloride | 4M | Cl | ClH
reactant | dioxane | 2 mmol, 0.5 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (3R)—N-[(3-{[3-{[(5-Chloro-2-thienyl)sulfonyl]amino}-4-(1-hydroxyethyl)-1H-indazol-1-yl]methyl}phenyl)methyl]-3-morpholinecarboxamide formate salt | 31.2 mg, 58% | C(=O)O.ClC1=CC=C(S1)S(=O)(=O)NC1=NN(C2=CC=CC(=C12)C(C)O)CC=1C=C(C=CC1)CNC(=O)[C@@H]1NCCOC1 | InChI=1S/C26H28ClN5O5S2.CH2O2/c1-16(33)19-6-3-7-21-24(19)25(31-39(35,36)23-9-8-22(27)38-23)30-32(21)14-18-5-2-4-17(12-18)13-29-26(34)20-15-37-11-10-28-20;2-1-3/h2-9,12,16,20,28,33H,10-11,13-15H2,1H3,(H,29,34)(H,30,31);1H,(H,2,3)/t16?,20-;/m1./s1
